US05510361
In a 5 L round bottom flask, equipped with magnetic stirrer and Ar inlet is placed a solution of (77.1 g, 0.24 mol) 3-chloro-1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-methylbutan-1one and hydroxylamine hydrochloride (20.1 g, 0.28 mol) in EtOH (2.2 L). To the stirred solution is added 2 N NaOH (119 mL,0.24 mol, 1.0 eq) dropwise over 15 min. A rapidly dissipating yellow color is observed on contact of the two solutions. After addition is complete, the reaction is heated at 50° C. The reaction is followed by TLC (EtOAc:hexane, 1:4). After 3 hr, approximately 50% conversion is achieved. The crude product is precipitated by addition of H2O (750 mL), and filtered. The filtrate is set aside. A single recrystallization of the solids from hexane provides 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-4,5-dihydro-5,5-dimethylisoxazole as a faint yellow solid. The H2O/EtOH filtrate is concentrated on a rotary evaporator to remove EtOH, and the resulting suspension is extracted with CH2Cl2 (3×200 mL). The aqueous phase is discarded, and the organic phase is dried (MgSO4), filtered, combined with the hexane mother liquor from the above crystallization, and evaporated to an oily solid. Crystallization from hexane produces 3-(3,5-di-tert-butyl-4-hydroxyphenyl)4,5dihydro-5,5-dimethylisoxazole as a yellow solid slightly less pure than the first batch.

reactant | 3-chloro-1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-methylbutan-1one | 0.24 mol, 77.1 g | ClC(CC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)(C)C | C19H29ClO2
reactant | hydroxylamine hydrochloride | 0.28 mol, 20.1 g | Cl.NO
reactant | NaOH | 0.24 mol, 2 N, 119 mL, 1.0 eq | [OH-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 2.2 L | CCO | C2H6O
solvent | hexane | CCCCCC | C6H14
product | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-4,5-dihydro-5,5-dimethylisoxazole | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NOC(C1)(C)C | C19H29NO2
